US06531502B1
LAH (0.57 g, 15.1 mmol) was added dropwise to a suspension of 3-(6,6-dimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-N,N-diethylpropionamide (1.1 g, 3.8 mmol) in THF (80 mL). The mixture was refluxed overnight. The reaction was cooled and ice was added until no more gas was generated. A few drops of 15% NaOH in water was then added. The mixture was stirred at room temperature for 30 minutes and then filtered to remove insolubles. The filtrate was concentrated to give 0.9 g of [3-(6,6-dimethyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-diethylamine as a light yellow oil.

reactant | LAH | 15.1 mmol, 0.57 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-(6,6-dimethyl-4-oxo-4,5,6,7-tetrahydro-1H-indol-3-yl)-N,N-diethylpropionamide | 3.8 mmol, 1.1 g | CC1(CC(C=2C(=CNC2C1)CCC(=O)N(CC)CC)=O)C | C17H26N2O2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | NaOH | A few drops | [OH-].[Na+]
solvent | water | O | H2O
product | [3-(6,6-dimethyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-diethylamine | 0.9 g | CC1(CCC=2C(=CNC2C1)CCCN(CC)CC)C | C17H30N2
